US05541229
4'-[(7-n-Butanoyloxy-2-n-butyl-4-methyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid
Prepared in analogous manner to Example 60 from 4'-[(2-n-butyl-7-hydroxy-4-methyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate and butyric acid chloride in pyridine.

reactant | 4'-[(2-n-butyl-7-hydroxy-4-methyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)[O-])C(=CC=C2C)O
reactant | butyric acid chloride | C(CCC)(=O)Cl | C4H7ClO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4'-[(7-n-Butanoyloxy-2-n-butyl-4-methyl-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid | C(CCC)(=O)OC1=CC=C(C2=C1N(C(=N2)CCCC)CC2=CC=C(C=C2)C=2C(=CC=CC2)C(=O)O)C | C30H32N2O4
